US05523278
Preparation of 2'-Methoxy-2-(methylthio)-5-nitrobenzophenone
A solution of methanethiol (1.7 g, 35.3 mmol) in tetrahydrofuran is added to a solution of potassium tertbutoxide (4.0 g, 35.7 mmol) in tetrahydrofuran at 0° C. A solution of 2-chloro-2'-methoxy-5-nitrobenzophenone (10.0 g, 34.3 mmol) is added portionwise to the cold reaction mixture. The reaction mixture is then warmed to and stirred at room temperature overnight and diluted with ice. The resultant aqueous mixture is filtered to give the title product as a yellow solid (9.9 g, mp 119°-122° C.).

reactant | methanethiol | 35.3 mmol, 1.7 g | CS | CH4S
reactant | potassium tertbutoxide | 35.7 mmol, 4.0 g | CC(C)([O-])C.[K+]
reactant | 2-chloro-2'-methoxy-5-nitrobenzophenone | 34.3 mmol, 10.0 g | ClC1=C(C(=O)C2=C(C=CC=C2)OC)C=C(C=C1)[N+](=O)[O-] | C14H10ClNO4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2'-Methoxy-2-(methylthio)-5-nitrobenzophenone | 9.9 g | COC1=C(C=CC=C1)C(C1=C(C=CC(=C1)[N+](=O)[O-])SC)=O | C15H13NO4S
